Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]#[C:10][H:11]>>[C:1].[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]#[C:10][H:11],3.82096870162
[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[O:11]>>[H:1][O:2][C:3]1=[C:4]([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[O:11]1,-3.4935387879800004
[C:4]([H:5])([H:6])[H:7].[O:1]=[C:2]([H:3])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1][C@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-0.64454975584
[H:15].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.49536608809
[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:3]([H:4])=[C:5]([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2],6.01716650131
[H:1][C:2](=[O:3])[C@:10]([C:7]([C:4]([H:5])[H:6])([H:8])[H:9])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]1[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C@@:10]1([H:11])[C:12]([H:13])([H:14])[H:15],-0.357017997751
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[C:5]([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3][H:4],7.0749352434500015
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12][C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])=[C:4][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12][C:13]([H:14])([H:15])[H:16].[H:5],4.78511368142
[H:3].[O:1]=[C:2][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11],-4.26215885399
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C@:9]([H:10])([O:11][H:12])[C:13]([H:14])([H:15])[H:16]>>[H:10].[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([O:11][H:12])[C:13]([H:14])([H:15])[H:16],4.2196340703300015
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10],6.4582361415
[H:1][C:4]([H:5])[C:10]([H:11])([H:12])[C:13](=[C:2]=[C:3]([C:6]([H:7])([H:8])[H:9])[H:15])[H:14]>>[H:1][C:2]1=[C:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]1([H:14])[H:15],-0.6700135074600001
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12]>>[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12].[O:1],8.38945018398
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[H:8]>>[C:5]([H:6])([H:7])[H:8].[H:1][O:2][C:3][H:4],3.68087870527
[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:2](\[O:3][C:4]([H:5])([H:6])[H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13].[O:1],6.60115753931
[H:1][C:2]([H:3])=[C:4][O:5][C:6]=[C:8]([H:9])[H:10].[H:7]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10],-4.89163936876
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11],4.505652889559999
[C:12]([H:13])([H:14])[H:15].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.505652889559999
[C:5]([H:6])[C:7]([H:8])([H:9])[H:10].[H:1][C:2]#[C:3][O:4]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10],-3.22013798944
[C:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]>>[H:1][O:2][C:3][C@@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-2.94684584005
[H:1][C:2]1=[C:3]([C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]1([H:15])[H:16]>>[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16],3.223732642
[H:13].[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.6097810287
[H:1][C:2]([H:3])=[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]=[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:3],5.116003531880001
[H:1][C:2][O:3][C:4]([C:5]#[C:6][H:7])[O:8][H:9]>>[C:5]#[C:6][H:7].[H:1][C:2][O:3][C:4][O:8][H:9],4.75107785864
[H:1][C:2](=[C:3]=[O:4])[O:10][C:7]([C:5][H:6])([H:8])[H:9]>>[H:1][C:2]1[C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[O:10]1,-1.11537265297
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:9]([H:10])([H:11])[H:12].[H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-4.44242509459
[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])[O:4][C:5][O:6][C:7]([H:8])[H:9]>>[H:1][C:2]([H:3])[O:4][C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.5495151974
